US06403586B1
Preparation of 4-Methoxycarbonyl-6-(4-methoxyphenyl)-2-n-propyl-2H-pyridazin-3-one
Using 4-methoxycarbonyl-6-(4-methoxyphenyl)-2H-pyridazin-3-one and bromopropane as starting materials, the procedures of Example 1 were repeated likewise, whereby the title compound was obtained in a yield of 78.3%.

reactant | 4-methoxycarbonyl-6-(4-methoxyphenyl)-2H-pyridazin-3-one | COC(=O)C=1C(NN=C(C1)C1=CC=C(C=C1)OC)=O | C13H12N2O4
reactant | bromopropane | BrCCC | C3H7Br
product | 4-Methoxycarbonyl-6-(4-methoxyphenyl)-2-n-propyl-2H-pyridazin-3-one | yield of 78.3% | COC(=O)C=1C(N(N=C(C1)C1=CC=C(C=C1)OC)CCC)=O | C16H18N2O4
